US05134138
To a mixture of dichloromethane (1.1 liters), 2-(2-aminothiazol-4-yl)-2-(1-t-butoxycarbonyl-1-methylethoxyimino)acetic acid (142 g; 431 mMol.), and triethylamine (89.7 ml; 1.5 Eq.) are added di-t-butyl pyrocarbonate (122 g; 1.3 Eq.) and 4-DMAP (10.5 g; 0.2 Eq.), and the mixture is kept at room temperature for 23 hours. The reaction mixture is concentrated under reduced pressure and diluted with ether. The organic layer is extracted with water and aqueous 5% sodium hydrogen carbonate. The extract is washed with ether, acidified to pH 2 with concentrated hydrochloric acid, and extracted with dichloromethane. The extract is washed with water, dried, and concentrated under reduced pressure. The residue is solidified with isopropanol to give 2-(2-t-butoxycarbonylamino-4-thiazolyl)-2-(1-t-butoxycarbonyl-1-methylethoxyimino)acetic acid (76.93 g).

reactant | 2-(2-aminothiazol-4-yl)-2-(1-t-butoxycarbonyl-1-methylethoxyimino)acetic acid | 431 mMol, 142 g | NC=1SC=C(N1)C(C(=O)O)=NOC(C)(C)C(=O)OC(C)(C)C | C13H19N3O5S
reactant | triethylamine | 89.7 ml, 1.5 Eq. | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl pyrocarbonate | 122 g, 1.3 Eq. | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-DMAP | 10.5 g, 0.2 Eq. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 1.1 liters | ClCCl | CH2Cl2
product | 2-(2-t-butoxycarbonylamino-4-thiazolyl)-2-(1-t-butoxycarbonyl-1-methylethoxyimino)acetic acid | 76.93 g, Yield: 42% | C(C)(C)(C)OC(=O)NC=1SC=C(N1)C(C(=O)O)=NOC(C)(C)C(=O)OC(C)(C)C | C18H27N3O7S
